US05994378
A mixture of methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(4-ethoxycarbonylbutoxy)indole-3-acetate (0.2 g) and 1N-sodium hydroxide (1.66 ml) in a mixed solvent of tetrahydrofuran (2 ml) and methanol (1 ml) was stirred at room temperature for 4 hours. After removal of solvents, the aqueous solution was acidified with diluted hydrochloric acid. The resulting precipitates were collected by filtration and washed with water to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(4-carboxybutoxy)indole-3-acetic acid (0.15 g).

reactant | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(4-ethoxycarbonylbutoxy)indole-3-acetate | 0.2 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCCCCC(=O)OCC)CC(=O)OC | C34H38N2O6S
reactant | sodium hydroxide | 1.66 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(4-carboxybutoxy)indole-3-acetic acid | 0.15 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCCCCC(=O)O)CC(=O)O | C31H32N2O6S
